US06919329B2
Step 1: Preparation of N′-(2-fluoro-4-nitrobenzoyl)hydrazinecarboxylic acid tert-butyl ester
N,N-Diisopropylethylamine (14.1 ml, 0.081 mol) is added to 2-fluoro-4-nitrobenzoic acid (5 g, 0.027 mol) and O-(7-azabenzotriazol-1-yl)-N,N, N′, N′-tetramethyluronium hexafluorophosphate (10.8 g, 0.0284 mol) in DMF (100 ml) and the mixture stirred at room temperature for 20 minutes. tert-Butyl carbazate (3.57 g, 0.0270 mol) is added in one portion and the reaction stirred overnight at room temperature. The mixture is concentrated and diluted with water (100 ml). The resulting precipitate is filtered, washed well with water, and dried under vacuum to give the title compound as a white solid (4.63 g, 57%), [M+H]+=300.

reactant | N,N-Diisopropylethylamine | 0.081 mol, 14.1 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 2-fluoro-4-nitrobenzoic acid | 0.027 mol, 5 g | FC1=C(C(=O)O)C=CC(=C1)[N+](=O)[O-] | C7H4FNO4
reactant | O-(7-azabenzotriazol-1-yl)-N,N, N′, N′-tetramethyluronium hexafluorophosphate | 0.0284 mol, 10.8 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
reactant | tert-Butyl carbazate | 0.0270 mol, 3.57 g | C(NN)(=O)OC(C)(C)C | C5H12N2O2
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | N′-(2-fluoro-4-nitrobenzoyl)hydrazinecarboxylic acid tert-butyl ester | 4.63 g, 57% | C(C)(C)(C)OC(=O)NNC(C1=C(C=C(C=C1)[N+](=O)[O-])F)=O | C12H14FN3O5
